* Z:\mnt\design.r\spice\examples\ADP7105-3.3.asc
C2 N002 0 2.7n
V1 IN 0 4.3
C1 OUT 0 2.2µ
Rload OUT 0 11
XU1 IN OUT IN N002 OUT 0 N001 ADP7105 Vref=3.3
R1 OUT N001 100k
.tran 6m startup
.lib ADP7102.lib
.backanno
.end
